US07759379B2
d) N-piperidin-4-yl-6-[3-(2-aminopyrimidin-4-ylmethyl)-4,4-dimethyl-2,5-dioxoimidazolidin-1-yl]-3,3-dimethyl-2,3-dihydroindole-1-carboxamide
200 mg (0.53 mmol) of 1-(2-aminopyrimidin-4-ylmethyl)-3-(3,3-dimethyl-2,3-dihydro-1H-indol-6-yl)-5,5-dimethylimidazolidine-2,4-dione were dissolved in 3 ml of THF, and a solution of 118 mg (0.53 mmol) of 4-isocyanatotrifluoroacetylpiperidine in 3 ml of THF was added. After stirring at RT for 1 h, the mixture is concentrated and taken up in 3 ml of dioxane and 3 ml of 2 N HCl, and the mixture is heated in a microwave at 120° C. for 15 min. For workup, the mixture was concentrated and the remaining residue was purified by means of preparative HPLC (RP18, acetonitrile/water, 0.1% TFA). After release of the base by treating with sodium hydrogencarbonate solution, 60 mg of the title compound were obtained.

reactant | 1-(2-aminopyrimidin-4-ylmethyl)-3-(3,3-dimethyl-2,3-dihydro-1H-indol-6-yl)-5,5-dimethylimidazolidine-2,4-dione | 0.53 mmol, 200 mg | NC1=NC=CC(=N1)CN1C(N(C(C1(C)C)=O)C1=CC=C2C(CNC2=C1)(C)C)=O | C20H24N6O2
reactant | 4-isocyanatotrifluoroacetylpiperidine | 0.53 mmol, 118 mg | N(=C=O)C1CCN(CC1)C(C(F)(F)F)=O | C8H9F3N2O2
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | N-piperidin-4-yl-6-[3-(2-aminopyrimidin-4-ylmethyl)-4,4-dimethyl-2,5-dioxoimidazolidin-1-yl]-3,3-dimethyl-2,3-dihydroindole-1-carboxamide | 60 mg | N1CCC(CC1)NC(=O)N1CC(C2=CC=C(C=C12)N1C(N(C(C1=O)(C)C)CC1=NC(=NC=C1)N)=O)(C)C | C26H34N8O3
